US04136119
Conversion of MICO To 2-Methyl-4-Isopropylcyclohex-2-En-1-One
A mixture of MICO (4.4 mg, 2.9 × 10-2 mmol), a trace of p-toluenesulfonic acid monohydrate and CHCl3 (3 mL) was refluxed for 30 min, taken up in 30 mL of ether and worked up as previously described for the ZnBr2 rearrangement to yield an oily residue. One major product (>95% of total volatiles) was isolated by VPC and shown to be the desired -2-en- analog by comparison of IR and MS spectra with those of authentic materials. UV (95% EtOH) lambda(max) = 227 nm; IR 2950, 1680 (C=0), 1355 and 1375(d), 1125, 1103, 1072(d). MS m/e (rel abundance) 153(9), 152(57), 137(9), 111(10), 110(100), 109(58), 97(23), 96(19), 95(73), 81(43).

reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
reactant | EtOH | CCO | C2H6O
solvent | ether | 30 mL | CCOCC | C4H10O
catalyst | ZnBr2 | [Zn+2].[Br-].[Br-]
product | 2-Methyl-4-Isopropylcyclohex-2-En-1-One | CC=1C(CCC(C1)C(C)C)=O | C10H16O
